### PR TITLE
[Merged by Bors] - feat(Geometry/OpenImmersion): lemmas for sheafed space/locally ringed space

### PR DESCRIPTION
**Pull request by jjaassoonn**
copied from their presheafed space counter-part

Co-authored-by: Andrew Yang <the.erd.one@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jjaassoonn** [comment]
The PR is quite large, but since the content is mostly just copying and pasting, hopefully the size is okay.

**Comment by erdOne** [comment]
Where this needed for #12371?

**Comment by jjaassoonn** [comment]
> Where this needed for #12371?

`LocallyRingedSpace.IsOpenImmersion.to_iso` is used to golf the proof of `IsIso` instance. But `LocallyRingedSpace.IsOpenImmersion.to_iso` doesn't really dependent on everything in this PR, it can be extracted independently, this PR is for completeness sake.

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 1]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
 
 end OfStalkIso
 
+section
+
+variable {X Y : SheafedSpace C} {f : X ⟶ Y} (H : IsOpenImmersion f)
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:870]: The correct thing to do is to make `H` an instance argument and `f` be explicit. The approach in `PresheafedSpace.IsOpenImmersion` is bad.

Comment (jjaassoonn) [reply Mathlib/Geometry/RingedSpace/OpenImmersion.lean:870]: My thought exactly, I will open another PR to address this

Comment (jjaassoonn) [reply Mathlib/Geometry/RingedSpace/OpenImmersion.lean:870]: Can we get #14037 over the line before I open the said PR so that less merge conflict needs to be delt with

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 2]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
...
+/-- The functor `opens X ⥤ opens Y` associated with an open immersion `f : X ⟶ Y`. -/
+abbrev openFunctor :=
+  H.base_open.isOpenMap.functor
+
+/-- An open immersion `f : X ⟶ Y` induces an isomorphism `X ≅ Y|_{f(X)}`. -/
+@[simps! hom_c_app]
+noncomputable def isoRestrict : X ≅ Y.restrict H.base_open :=
+  SheafedSpace.isoMk <| PresheafedSpace.IsOpenImmersion.isoRestrict H
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:881]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 3]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
...
+theorem isoRestrict_hom_ofRestrict : H.isoRestrict.hom ≫ Y.ofRestrict _ = f :=
+  PresheafedSpace.IsOpenImmersion.isoRestrict_hom_ofRestrict H
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:885]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 4]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
...
+theorem isoRestrict_inv_ofRestrict : H.isoRestrict.inv ≫ f = Y.ofRestrict _ :=
+  PresheafedSpace.IsOpenImmersion.isoRestrict_inv_ofRestrict H
+
+/-- For an open immersion `f : X ⟶ Y` and an open set `U ⊆ X`, we have the map `X(U) ⟶ Y(U)`. -/
+noncomputable def invApp (U : Opens X) :
+    X.presheaf.obj (op U) ⟶ Y.presheaf.obj (op (H.openFunctor.obj U)) :=
+  PresheafedSpace.IsOpenImmersion.invApp H U
+
+@[simp, reassoc]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:894]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 5]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
...
+        X.presheaf.map (eqToHom (by simp [Opens.map, Set.preimage_image_eq _ H.base_open.inj])) :=
+  PresheafedSpace.IsOpenImmersion.inv_invApp H U
+
+@[simp, reassoc, elementwise]
+theorem invApp_app (U : Opens X) :
+    H.invApp U ≫ f.c.app (op (H.openFunctor.obj U)) =
+      X.presheaf.map (eqToHom (by simp [Opens.map, Set.preimage_image_eq _ H.base_open.inj])) :=
+  PresheafedSpace.IsOpenImmersion.invApp_app H U
+
+@[simp, reassoc]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:914]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 6]
```diff
@@ -865,6 +865,95 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
...
+
+instance (U : Opens X) : IsIso (H.invApp U) := by delta invApp; infer_instance
+
+theorem inv_invApp (U : Opens X) :
+    inv (H.invApp U) =
+      f.c.app (op (H.openFunctor.obj U)) ≫
+        X.presheaf.map (eqToHom (by simp [Opens.map, Set.preimage_image_eq _ H.base_open.inj])) :=
+  PresheafedSpace.IsOpenImmersion.inv_invApp H U
+
+@[simp, reassoc, elementwise]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:908]: I am not sure how to get all the expected attributes at once. You may try to add a line `attribute [simp] invApp_app_assoc`.

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 7]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+    LocallyRingedSpace.IsOpenImmersion f :=
+  SheafedSpace.IsOpenImmersion.of_stalk_iso hf (H := stalk_iso)
+
+end OfStalkIso
+
+section
+
+variable {X Y : LocallyRingedSpace} {f : X ⟶ Y} (H : IsOpenImmersion f)
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1322]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 8]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+theorem isoRestrict_hom_ofRestrict : H.isoRestrict.hom ≫ Y.ofRestrict _ = f := by
+  ext1
+  dsimp [isoRestrict, isoOfSheafedSpaceIso]
+  apply_fun SheafedSpace.forgetToPresheafedSpace.map using CategoryTheory.Functor.map_injective _
+  rw [Functor.map_comp, SheafedSpace.forgetToPresheafedSpace.map_preimage]
+  exact SheafedSpace.IsOpenImmersion.isoRestrict_hom_ofRestrict H
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1330]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 9]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+  rw [Functor.map_comp, SheafedSpace.forgetToPresheafedSpace.map_preimage]
+  exact SheafedSpace.IsOpenImmersion.isoRestrict_inv_ofRestrict H
+
+
+/-- For an open immersion `f : X ⟶ Y` and an open set `U ⊆ X`, we have the map `X(U) ⟶ Y(U)`. -/
+noncomputable def invApp (U : Opens X) :
+    X.presheaf.obj (op U) ⟶ Y.presheaf.obj (op (H.openFunctor.obj U)) :=
+  PresheafedSpace.IsOpenImmersion.invApp H U
+
+@[simp, reassoc]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1344]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 10]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+
+instance (U : Opens X) : IsIso (H.invApp U) := by delta invApp; infer_instance
+
+theorem inv_invApp (U : Opens X) :
+    inv (H.invApp U) =
+      f.1.c.app (op (H.openFunctor.obj U)) ≫
+        X.presheaf.map (eqToHom (by simp [Opens.map, Set.preimage_image_eq _ H.base_open.inj])) :=
+  PresheafedSpace.IsOpenImmersion.inv_invApp H U
+
+@[simp, reassoc, elementwise]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1358]: Same remark as above.

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 11]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+theorem invApp_app (U : Opens X) :
+    H.invApp U ≫ f.1.c.app (op (H.openFunctor.obj U)) =
+      X.presheaf.map (eqToHom (by simp [Opens.map, Set.preimage_image_eq _ H.base_open.inj])) :=
+  PresheafedSpace.IsOpenImmersion.invApp_app H U
+
+@[simp, reassoc]
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1364]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 12]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+
+section
+
+variable {X Y : LocallyRingedSpace} {f : X ⟶ Y} (H : IsOpenImmersion f)
+
+@[simp]
+theorem isoRestrict_hom_ofRestrict : H.isoRestrict.hom ≫ Y.ofRestrict _ = f := by
+  ext1
+  dsimp [isoRestrict, isoOfSheafedSpaceIso]
+  apply_fun SheafedSpace.forgetToPresheafedSpace.map using CategoryTheory.Functor.map_injective _
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1326]:
```suggestion
  apply SheafedSpace.forgetToPresheafedSpace.map_injective
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 13]
```diff
@@ -1211,6 +1300,111 @@ noncomputable def isoRestrict {X Y : LocallyRingedSpace} {f : X ⟶ Y}
...
+  rw [Functor.map_comp, SheafedSpace.forgetToPresheafedSpace.map_preimage]
+  exact SheafedSpace.IsOpenImmersion.isoRestrict_hom_ofRestrict H
+
+@[simp]
+theorem isoRestrict_inv_ofRestrict : H.isoRestrict.inv ≫ f = Y.ofRestrict _ := by
+  ext1
+  dsimp [isoRestrict, isoOfSheafedSpaceIso]
+  apply_fun SheafedSpace.forgetToPresheafedSpace.map using CategoryTheory.Functor.map_injective _
+  rw [Functor.map_comp, SheafedSpace.forgetToPresheafedSpace.map_preimage]
+  exact SheafedSpace.IsOpenImmersion.isoRestrict_inv_ofRestrict H
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1336]:
```suggestion
  simp only [← isoRestrict_hom_ofRestrict H, Iso.inv_hom_id_assoc]
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Geometry/RingedSpace/OpenImmersion.lean]: I am not sure if I understand the comment correctly, I did the following:
```
@[reassoc (attr := simp)] 
lemma foo := ….

attribute [elementwise] foo
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean (hunk 10 above)
Comment (jjaassoonn) [reply Mathlib/Geometry/RingedSpace/OpenImmersion.lean]: See above

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Geometry/RingedSpace/OpenImmersion.lean]: This approach has been adopted in the latest commit

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 14]
```diff
@@ -824,6 +824,94 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
 
 end OfStalkIso
 
+section
+
+variable {X Y : SheafedSpace C} (f : X ⟶ Y) [H : IsOpenImmersion f]
+
+/-- The functor `opens X ⥤ opens Y` associated with an open immersion `f : X ⟶ Y`. -/
+abbrev openFunctor :=
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:832]: This is called `opensFunctor` for Schemes as it is a functor between `Opens`.

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 15]
```diff
@@ -824,6 +824,94 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
 
 end OfStalkIso
 
+section
+
+variable {X Y : SheafedSpace C} (f : X ⟶ Y) [H : IsOpenImmersion f]
+
+/-- The functor `opens X ⥤ opens Y` associated with an open immersion `f : X ⟶ Y`. -/
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:831]:
```suggestion
/-- The functor `Opens X ⥤ Opens Y` associated with an open immersion `f : X ⟶ Y`. -/
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 16]
```diff
@@ -1152,14 +1240,116 @@ theorem lift_range (H' : Set.range g.1.base ⊆ Set.range f.1.base) :
...
+noncomputable def isoRestrict {X Y : LocallyRingedSpace} (f : X ⟶ Y)
+    [H : LocallyRingedSpace.IsOpenImmersion f] :
     X ≅ Y.restrict H.base_open :=
   LocallyRingedSpace.isoOfSheafedSpaceIso <|
     SheafedSpace.forgetToPresheafedSpace.preimageIso <|
       PresheafedSpace.IsOpenImmersion.isoRestrict f.1
 #align algebraic_geometry.LocallyRingedSpace.is_open_immersion.iso_restrict AlgebraicGeometry.LocallyRingedSpace.IsOpenImmersion.isoRestrict
 
+/-- The functor `opens X ⥤ opens Y` associated with an open immersion `f : X ⟶ Y`. -/
+abbrev openFunctor {X Y : LocallyRingedSpace} (f : X ⟶ Y)
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1252]: Same yere.

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 17]
```diff
@@ -1152,14 +1240,116 @@ theorem lift_range (H' : Set.range g.1.base ⊆ Set.range f.1.base) :
...
+  dsimp [isoRestrict, isoOfSheafedSpaceIso]
+  apply SheafedSpace.forgetToPresheafedSpace.map_injective
+  rw [Functor.map_comp, SheafedSpace.forgetToPresheafedSpace.map_preimage]
+  exact SheafedSpace.IsOpenImmersion.isoRestrict_hom_ofRestrict f.1
+
+@[reassoc (attr := simp)]
+theorem isoRestrict_inv_ofRestrict : (isoRestrict f).inv ≫ f = Y.ofRestrict _ := by
+  simp only [← isoRestrict_hom_ofRestrict f, Iso.inv_hom_id_assoc]
+
+
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1286]:
```suggestion

```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 18]
```diff
@@ -824,6 +824,94 @@ theorem of_stalk_iso {X Y : SheafedSpace C} (f : X ⟶ Y) (hf : OpenEmbedding f.
 
 end OfStalkIso
 
+section
+
+variable {X Y : SheafedSpace C} (f : X ⟶ Y) [H : IsOpenImmersion f]
+
+/-- The functor `Opens X ⥤ Opens Y` associated with an open immersion `f : X ⟶ Y`. -/
+abbrev opensFunctor :=
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:832]:
```suggestion
abbrev opensFunctor : Opens X ⥤ Opens Y :=
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 19]
```diff
@@ -1152,14 +1240,114 @@ theorem lift_range (H' : Set.range g.1.base ⊆ Set.range f.1.base) :
...
+    [H : LocallyRingedSpace.IsOpenImmersion f] :
     X ≅ Y.restrict H.base_open :=
   LocallyRingedSpace.isoOfSheafedSpaceIso <|
     SheafedSpace.forgetToPresheafedSpace.preimageIso <|
       PresheafedSpace.IsOpenImmersion.isoRestrict f.1
 #align algebraic_geometry.LocallyRingedSpace.is_open_immersion.iso_restrict AlgebraicGeometry.LocallyRingedSpace.IsOpenImmersion.isoRestrict
 
+/-- The functor `Opens X ⥤ Opens Y` associated with an open immersion `f : X ⟶ Y`. -/
+abbrev opensFunctor {X Y : LocallyRingedSpace} (f : X ⟶ Y)
+    [H : LocallyRingedSpace.IsOpenImmersion f] :=
```
Comment (joelriou) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1253]:
```suggestion
abbrev opensFunctor {X Y : LocallyRingedSpace} (f : X ⟶ Y)
    [H : LocallyRingedSpace.IsOpenImmersion f] : Opens X ⥤ Opens Y :=
```

**Comment by joelriou** [comment]
Thanks!

bors d+
